US06716862B2
5-Biphen-4-ylmethyl-5-(4-methoxybenzenesulfonyl)thiazolidine-2,4-dione
Prepared analogously to Example 9 from from 5-(4-methoxybenzenesulfonyl)thiazolidine-2,4-dione and 4-(bromomethyl)biphenyl in N,N-dimethylformamide. Trituration with diethyl ether provided an off-white solid. 1H NMR: δ 7.98 (s, 1H), 7.93, (dd, J=7.0, 2.0 Hz, 2H), 7.34-7.57 (m, 7H), 7.23-7.26 (m, 2H), 7.06 (dd, J=7.0, 2.0 Hz, 2H), 3.97 (A of AB, J=13.7 Hz, 1H), 3.92 (s, 3H), 3.39 (B of AB, J=13.7 Hz, 1H). MS (m/e): 452.1 (M−H)−. Anal: Calc for C23H19NO5S2.C3H7NO: 59.30% C, 4.98% H, 5.32% N; Found: 59.13% C, 4.89% H, 5.24% N. MP: 119-122° C.

reactant | 5-(4-methoxybenzenesulfonyl)thiazolidine-2,4-dione | COC1=CC=C(C=C1)S(=O)(=O)C1C(NC(S1)=O)=O | C10H9NO5S2
reactant | 4-(bromomethyl)biphenyl | BrCC1=CC=C(C=C1)C1=CC=CC=C1 | C13H11Br
reactant | diethyl ether | C(C)OCC | C4H10O
solvent | N,N-dimethylformamide | CN(C=O)C | C3H7NO
product | 5-Biphen-4-ylmethyl-5-(4-methoxybenzenesulfonyl)thiazolidine-2,4-dione | C1(=CC=C(C=C1)C1=CC=CC=C1)CC1(C(NC(S1)=O)=O)S(=O)(=O)C1=CC=C(C=C1)OC | C23H19NO5S2
